### PR TITLE
[Merged by Bors] - feat(Analysis/NormedSpace/PiTensorProduct/{InjectiveNorm, ProjectiveNorm}, LinearAlgebra/PiTensorProduct): define the injective and projective norms on `PiTensorProduct` and prove the universal property of the first one

### PR DESCRIPTION
**Pull request by smorel394**
Define the injective and projective cross norms on a `PiTensorProduct` of normed vector spaces `Eᵢ` over a nontrivially normed field `𝕜` (cf https://en.wikipedia.org/wiki/Topological_tensor_product#Cross_norms_and_tensor_products_of_Banach_spaces).

The projective norm, defined in `Analysis/NormedSpace/PiTensorProduct/ProjectiveNorm.lean`, is the biggest norm on the `PiTensorProduct` satisfying  `‖⨂ₜ[𝕜] i, m i‖ ≤ Π i, ‖m i‖` for every `m` in `Π i, Eᵢ`. We are mainly interested in the injective norm in this PR, so we just give the definition of the projective norm and its basic properties. To help with the proofs, we introduce some lemmas in `LinearAlgebra/PiTensorProduct.lean` about the set of lifts in `FreeAddMonoid (R × Π i, s i)` of an element `x` of `⨂[R] i, s i`.

The injective norm, defined in `Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean`, is chosen to satisfy the following property: for every normed `𝕜`-vector space `F`, the linear equivalence `MultilinearMap 𝕜 E F ≃ₗ[𝕜] (⨂[𝕜] i, Eᵢ) →ₗ[𝕜] F` expressing the universal property of the tensor product induces an isometric linear equivalence `ContinuousMultilinearMap 𝕜 E F ≃ₗᵢ[𝕜] (⨂[𝕜] i, Eᵢ) →L[𝕜] F`.

The idea is the following: Every normed `𝕜`-vector space `F` defines a linear map from `⨂[𝕜] i, Eᵢ` to `ContinuousMultilinearMap 𝕜 E F →ₗ[𝕜] F`, which sends `x` to the map `f ↦ f.lift x`. Thanks to `PiTensorProduct.projectiveSeminorm_bound`, this map lands in `ContinuousMultilinearMap 𝕜 E F →L[𝕜] F`. As this last space has a natural operator seminorm, we get an induced seminorm on `⨂[𝕜] i, Eᵢ`, which, by `PiTensorProduct.projectiveSeminorm_bound`, is bounded above by the projective seminorm. We then take the `sup` of these seminorms as `F` varies; as this family of seminorms is bounded, its `sup` has good properties.

In fact, we cannot take the `sup` over all normed spaces `F` because of set-theoretical issues, so we only take spaces `F` in the same universe as `⨂[𝕜] i, Eᵢ`. We then prove in `PiTensorProduct.norm_eval_le_injectiveSeminorm` that this gives the same result, because every multilinear map from `E` to `F` factors though a normed vector space in the same universe as `⨂[𝕜] i, Eᵢ`.

# Main definitions

* `PiTensorProduct.projectiveSeminorm`: The projective seminorm on `⨂[𝕜] i, Eᵢ`.
* `PiTensorProduct.toDualContinuousMultilinearMap`: The `𝕜`-linear map from `⨂[𝕜] i, Eᵢ` to `ContinuousMultilinearMap 𝕜 E F →L[𝕜] F` sending `x` to the map `f ↦ f x`.
* `PiTensorProduct.injectiveSeminorm`: The injective seminorm on `⨂[𝕜] i, Eᵢ`.
* `PiTensorProduct.liftEquiv`: The bijection between `ContinuousMultilinearMap 𝕜 E F`
and `(⨂[𝕜] i, Eᵢ) →L[𝕜] F`, as a continuous linear equivalence.
* `PiTensorProduct.liftIsometry`: The bijection between `ContinuousMultilinearMap 𝕜 E F`
and `(⨂[𝕜] i, Eᵢ) →L[𝕜] F`, as an isometric linear equivalence.
* `PiTensorProduct.tprodL`: The cacnonical continuous multilinear map from `E`
to `⨂[𝕜] i, Eᵢ`.
* `PiTensorProduct.mapL`: The continuous linear map from `⨂[𝕜] i, Eᵢ` to `⨂[𝕜] i, E'ᵢ`
induced by a family of continuous linear maps `Eᵢ →L[𝕜] E'ᵢ`.
* `PiTensorProduct.mapLMultilinear`: The continuous multilinear map from
`fun i ↦ (Eᵢ →L[𝕜] E'ᵢ)` to `(⨂[𝕜] i, Eᵢ) →L[𝕜] (⨂[𝕜] i, E'ᵢ)` sending a family
`f` to `PiTensorProduct.mapL f`.

# Main results

* `PiTensorProduct.norm_eval_le_projectiveSeminorm`: For every `x` in `⨂[𝕜] i, Eᵢ` and every continuous multilinear map `f` from `E` to a normed space `F`, we have `‖f.lift  x‖ ≤ ‖f‖ * projectiveSeminorm x `. This implies in particular:
* `PiTensorProduct.injectiveSeminorm_le_projectiveSeminorm`: The injective seminorm is bounded above by the projective seminorm.
* `PiTensorProduct.norm_eval_le_injectiveSeminorm`: The main property of the injective seminorm on
`⨂[𝕜] i, Eᵢ`: for every `x` in `⨂[𝕜] i, Eᵢ` and every continuous multilinear map `f` from `E`
to a normed space `F`, we have `‖f.lift  x‖ ≤ ‖f‖ * injectiveSeminorm x `.
* `PiTensorProduct.mapL_opNorm`: If `f` is a family of continuous linear maps
`fᵢ : Eᵢ →L[𝕜] Fᵢ`, then `‖PiTensorProduct.mapL f‖ ≤ ∏ i, ‖fᵢ‖`.
* `PiTensorProduct.mapLMultilinear_opNorm` : If `F` is a normed vecteor space, then
`‖mapLMultilinear 𝕜 E F‖ ≤ 1`.

# TODO (in a future PR)

If all `Eᵢ` are separated and satisfy `SeparatingDual`, then the seminorm on `⨂[𝕜] i, Eᵢ` is a norm. This uses the construction of a basis of the `PiTensorProduct`, hence depends on PR #11156. It should probably go in a separate file, which is why I am creating a directory Analysis/NormedSpace/PiTensorProduct.

# Technical issues

* Ideally, I would prefer not to define `liftEquiv` and to have only `liftIsometry`, but I am using `liftEquiv.left_inv` in the proof that `liftIsometry` preserves norms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 1]
```diff
@@ -0,0 +1,467 @@
...
+
+* `PiTensorProduct.toDualContinuousMultilinearMap`: The `𝕜`-linear map from
+`⨂[𝕜] i, Eᵢ` to `ContinuousMultilinearMap 𝕜 E F →L[𝕜] F` sending `x` to the map
+`f ↦ f x`.
+* `PiTensorProduct.injectiveSeminorm`: The injective seminorm on `⨂[𝕜] i, Eᵢ`.
+* `PiTensorProduct.liftEquiv`: The bijection between `ContinuousMultilinearMap 𝕜 E F`
+and `(⨂[𝕜] i, Eᵢ) →L[𝕜] F`, as a continuous linear equivalence.
+* `PiTensorProduct.liftIsometry`: The bijection between `ContinuousMultilinearMap 𝕜 E F`
+and `(⨂[𝕜] i, Eᵢ) →L[𝕜] F`, as an isometric linear equivalence.
+* `PiTensorProduct.tprodL`: The cacnonical continuous multilinear map from `E`
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:52]:
```suggestion
* `PiTensorProduct.tprodL`: The canonical continuous multilinear map from `E`
```

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 2]
```diff
@@ -0,0 +1,467 @@
...
+induced by a family of continuous linear maps `Eᵢ →L[𝕜] E'ᵢ`.
+* `PiTensorProduct.mapLMultilinear`: The continuous multilinear map from
+`fun i ↦ (Eᵢ →L[𝕜] E'ᵢ)` to `(⨂[𝕜] i, Eᵢ) →L[𝕜] (⨂[𝕜] i, E'ᵢ)` sending a family
+`f` to `PiTensorProduct.mapL f`.
+
+## Main results
+
+* `PiTensorProduct.injectiveSeminorm_bound`: The main property of the injective seminorm on
+`⨂[𝕜] i, Eᵢ`: for every `x` in `⨂[𝕜] i, Eᵢ` and every continuous multilinear map `f` from `E`
+to a normed space `F`, we have `‖f.lift  x‖ ≤ ‖f‖ * injectiveSeminorm x `.
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:64]:
```suggestion
to a normed space `F`, we have `‖f.lift x‖ ≤ ‖f‖ * injectiveSeminorm x `.
```

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 3]
```diff
@@ -0,0 +1,467 @@
...
+open scoped TensorProduct
+
+open BigOperators
+
+namespace PiTensorProduct
+
+section seminorm
+
+lemma toDualMultilinearMap_bound (x : ⨂[𝕜] i, E i) :
+    ∃ (C : ℝ), 0 ≤ C ∧ ∀ (G : Type*) [SeminormedAddCommGroup G]
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:89]: The lemma is a little bit awkward because, as it is written, it depends on some universe (the universe of `G`) and the constant might depend on this universe. Better define the constant inductively depending on `x` (not mentioning `G`, so not depending on any alien universe) and then show that it works, whatever the `G` (and whatever its universe). A bonus is that this explicit constant will give an explicit bound below on the injective seminorm (and maybe `injectiveSeminorm_tprod_le` would be a direct consequence of this).

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 4]
```diff
@@ -0,0 +1,467 @@
...
+to a normed space `F`, we have `‖f.lift  x‖ ≤ ‖f‖ * injectiveSeminorm x `.
+* `PiTensorProduct.mapL_opNorm`: If `f` is a family of continuous linear maps
+`fᵢ : Eᵢ →L[𝕜] Fᵢ`, then `‖PiTensorProduct.mapL f‖ ≤ ∏ i, ‖fᵢ‖`.
+* `PiTensorProduct.mapLMultilinear_opNorm` : If `F` is a normed vecteor space, then
+`‖mapLMultilinear 𝕜 E F‖ ≤ 1`.
+
+-/
+
+variable {ι : Type*} [Fintype ι]
+
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:73]: Could you remove the empty lines between the variables lines?

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 5]
```diff
@@ -0,0 +1,467 @@
...
+      LinearMap.smul_apply, LinearMap.flip_apply, LinearEquiv.coe_coe, RingHom.id_apply,
+      ContinuousLinearMap.coe_smul', Pi.smul_apply]
+
+/-- The injective seminorm on `⨂[𝕜] i, Eᵢ`. Morally, it sends `x` in `⨂[𝕜] i, Eᵢ` to the
+`sup` of the operator norms of the `PiTensorProduct.toDualContinuousMultilinearMap x`, for all
+normed vector spaces `F`. In fact, we only take in the same universe as `⨂[𝕜] i, Eᵢ`, and then
+prove in `PiTensorProduct.injectiveSeminorm_bound` that this gives the same result.
+-/
+noncomputable def injectiveSeminorm : Seminorm 𝕜 (⨂[𝕜] i, E i) :=
+  sSup {p | ∃ (G : Type (max (max u_1 u_2) u_3)) (_ : SeminormedAddCommGroup G)
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:143]: Here it's impossible to guess what the universes are (and if someone adds a new `Type*` it will break everything). Better use explicit universe variables in 𝕜, E, F (naming them for instance `u𝕜`, `uE`, `uF`).

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 6]
```diff
@@ -0,0 +1,467 @@
...
+      Function.comp_apply, ContinuousMultilinearMap.toMultilinearMapLinear_apply,
+      LinearMap.smul_apply, LinearMap.flip_apply, LinearEquiv.coe_coe, RingHom.id_apply,
+      ContinuousLinearMap.coe_smul', Pi.smul_apply]
+
+/-- The injective seminorm on `⨂[𝕜] i, Eᵢ`. Morally, it sends `x` in `⨂[𝕜] i, Eᵢ` to the
+`sup` of the operator norms of the `PiTensorProduct.toDualContinuousMultilinearMap x`, for all
+normed vector spaces `F`. In fact, we only take in the same universe as `⨂[𝕜] i, Eᵢ`, and then
+prove in `PiTensorProduct.injectiveSeminorm_bound` that this gives the same result.
+-/
+noncomputable def injectiveSeminorm : Seminorm 𝕜 (⨂[𝕜] i, E i) :=
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:142]: When a definition is as complicated as this one, and you don't expect to use the inner definition once the API is set up, you can use `irreducible_def` to add an unbreakable abstraction layer.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 7]
```diff
@@ -0,0 +1,467 @@
...
+  rw [mem_upperBounds]
+  intro p hp
+  simp only [Set.mem_image] at hp
+  let ⟨q, hq⟩ := hp
+  simp only [Set.mem_setOf_eq] at hq
+  intro x
+  rw [← hq.2]
+  obtain ⟨⟨G, G₁, ⟨G₂, h⟩⟩⟩ := hq
+  letI := G₁
+  letI := G₂
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:164]:
```suggestion
```
These shouldn't be needed in Lean 4.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 8]
```diff
@@ -0,0 +1,467 @@
...
+  rw [h]
+  simp only [Seminorm.comp_apply, ge_iff_le]
+  let hbound := Classical.choose_spec (toDualMultilinearMap_bound x)
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:167]:
```suggestion
  have hbound := Classical.choose_spec (toDualMultilinearMap_bound x)
```
No need for `let` when it's a Prop.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 9]
```diff
@@ -0,0 +1,467 @@
...
+  exact ContinuousLinearMap.opNorm_le_bound _ hbound.1 (fun f ↦ by
+    simp only [toDualContinuousMultilinearMap_apply_toFun]
+    exact hbound.2 G f)
+
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:172]: It should probably not be a simp lemma: most of the time, once the API is set up, you want to keep the abstraction instead of expanding to the ugly right-hand side.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 10]
```diff
@@ -0,0 +1,467 @@
...
+theorem injectiveSeminorm_apply (x : ⨂[𝕜] i, E i) :
+    injectiveSeminorm x = ⨆ p : {p | ∃ (G : Type (max (max u_1 u_2) u_3))
+    (_ : SeminormedAddCommGroup G) (_ : NormedSpace 𝕜 G), p = Seminorm.comp (normSeminorm 𝕜
+    (ContinuousMultilinearMap 𝕜 E G →L[𝕜] G))
+    (toDualContinuousMultilinearMap (F := G) (𝕜 := 𝕜) (E := E))}, p.1 x := by
+  refine Seminorm.sSup_apply dualSeminorms_bounded
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:178]:
```suggestion
    (toDualContinuousMultilinearMap (F := G) (𝕜 := 𝕜) (E := E))}, p.1 x :=
  Seminorm.sSup_apply dualSeminorms_bounded
```

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 11]
```diff
@@ -0,0 +1,467 @@
...
+
+theorem injectiveSeminorm_bound (f : ContinuousMultilinearMap 𝕜 E F) (x : ⨂[𝕜] i, E i) :
+    ‖lift f.toMultilinearMap x‖ ≤ ‖f‖ * injectiveSeminorm x := by
+  set G := (⨂[𝕜] i, E i) ⧸ LinearMap.ker (lift f.toMultilinearMap)
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:182]: When something non trivial happens in a proof, I think it's a good idea to add a few comments about that. Here, you only need to play this game because of universe issues (if I understand correctly), so comments would definitely look worthwhile.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 12]
```diff
@@ -0,0 +1,467 @@
...
+     refine le_antisymm ?_ ?_
+     · simp only [liftEquiv_apply]
+       exact LinearMap.mkContinuous_norm_le _ (norm_nonneg f) _
+     · conv_lhs => rw [← (liftEquiv 𝕜 E F).left_inv f]
+       simp only [LinearEquiv.invFun_eq_symm, liftEquiv_symm_apply]
+       exact MultilinearMap.mkContinuous_norm_le _ (norm_nonneg _) _}
+
+variable {E F}
+
+/-- The canonical continuous multilinear map from `E` to `⨂[𝕜] i, Eᵢ`.
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:295]: Maybe write
"from `E = E₁ × ... × Eₙ` "
(here and elsewhere if it can help, maybe?)

**Review by sgouezel — COMMENTED** [review]
Looks great!

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 4 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:73]: Done.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 6 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean]: Ok, done.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 5 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:140]: Good point, done.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 12 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean]: Ok.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:88]: I see what you mean about universes. The "correct" upper bound is actually the projective cross norm on the tensor product, and yes, it does give `injectiveSeminorm_tprod_le`. I'll see if I can define the projective seminorm quickly and use it as an upper bound; it would also have the advantage of being independently interesting, as it would give the definition of the other natural norm on tensor products.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 11 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:163]: Okay, I added a comment explaining what is going on in the proof.

**Comment by sgouezel** [comment]
The linter is not happy...

**Comment by smorel394** [comment]
> The linter is not happy...

I am aware of that. I explain the reason in the commit message and why I am not sure what to do:
The linter complains that the `@[simps!]` on line 265 (before the definition of liftIsometry) creates lemmas that can be proved by simp. However, if I remove this @[simps!], then simp becomes unable to prove some of the later lemmas.

I don't know what the "correct" solution is. Should I remove the `@[simps!]` and write out all the lemmas it generates (except the ones that the linter dislikes) explicitly ? This seems a bit stupid, and also I don't have a list of the lemmas that `@[simps!]` creates.

**Comment by smorel394** [comment]
I don't think that the linter should complain that automatically created lemmas are too easy to prove. Or it should complain only when all lemmas automatically created by something such as `@[simps!]` are too easy to prove. Because here I have to choose between "all the automatically created lemmas" which the linter blocks, or "none of them" which means that I'll miss some lemmas later.

**Comment by sgouezel** [comment]
Note that the autogenerated simp lemmas are not always very good, especially in complicated situations like this one. On the definition of `liftIsometry`, if you replace `@[simps!]` with `@[simps!?]`, you will see what lemmas are generated. For instance, the first simp lemma it registers is `((PiTensorProduct.liftIsometry 𝕜 E F) f) a = (PiTensorProduct.liftAux f.toMultilinearMap) a`, which is not so nice. In this case, it may be worth it removing the `@[simps]` alltogether and registering by hand more useful versions of the lemmas...

**Comment by smorel394** [comment]
> Note that the autogenerated simp lemmas are not always very good, especially in complicated situations like this one. On the definition of `liftIsometry`, if you replace `@[simps!]` with `@[simps!?]`, you will see what lemmas are generated. For instance, the first simp lemma it registers is `((PiTensorProduct.liftIsometry 𝕜 E F) f) a = (PiTensorProduct.liftAux f.toMultilinearMap) a`, which is not so nice. In this case, it may be worth it removing the `@[simps]` alltogether and registering by hand more useful versions of the lemmas...

Yeah, I guess I will have to do that, as removing the `@[simps]` on `liftEquiv` did not help. Aw man. :-(

**Comment by smorel394** [comment]
You were right, the autogenerated simp lemmas sucked! Anyway, now only one lemma is left, and the linter is finally appeased.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+    letI := liftsNonempty x
+    rw [Real.mul_iInf_of_nonneg (norm_nonneg _)]
+    refine le_ciInf ?_
+    intro p
+    rw [← projectiveSeminormAux_smul]
+    exact ciInf_le_of_le (projectiveSemiNormAuxBddBelow _) ⟨(List.map (fun y ↦ (a * y.1, y.2)) p.1),
+    lifts_smul p.2 a⟩ (le_refl _)
+
+theorem projectiveSeminorm_apply (x : ⨂[𝕜] i, E i) :
+    projectiveSeminorm x = iInf (fun (p : lifts x) ↦ projectiveSeminormAux p.1) := by rfl
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean:124]:
```suggestion
    projectiveSeminorm x = iInf (fun (p : lifts x) ↦ projectiveSeminormAux p.1) := rfl
```

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+
+theorem projectiveSeminorm_tprod_le (m : Π i, E i) :
+    projectiveSeminorm (⨂ₜ[𝕜] i, m i) ≤ ∏ i, ‖m i‖ := by
+  rw [projectiveSeminorm_apply]
+  convert ciInf_le (projectiveSemiNormAuxBddBelow _) ⟨[((1 : 𝕜), m)] ,?_⟩
+  · simp only [projectiveSeminormAux, Function.comp_apply, List.map_cons, norm_one, one_mul,
+    List.map_nil, List.sum_cons, List.sum_nil, add_zero]
+  · rw [mem_lifts_iff, List.map_singleton, List.sum_singleton, one_smul]
+
+theorem projectiveSeminorm_bound (x : ⨂[𝕜] i, E i) (G : Type*) [SeminormedAddCommGroup G]
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean:134]: Can you find a better name for this lemma? Here it's impossible to guess that one is applying a continuous multilinear map...

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 15]
```diff
@@ -319,6 +319,61 @@ theorem tprodCoeff_eq_smul_tprod (z : R) (f : Π i, s i) : tprodCoeff R z f = z
   conv_lhs => rw [this]
 #align pi_tensor_product.tprod_coeff_eq_smul_tprod PiTensorProduct.tprodCoeff_eq_smul_tprod
 
+/-- The image of an element `p` of `FreeAddMonoid (R × Π i, s i)` in the `PiTensorProduct` is
+equal to the sum of `a • ⨂ₜ[R] i, m i` over all the entries `(a,m)` of `p`.
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:323]:
```suggestion
equal to the sum of `a • ⨂ₜ[R] i, m i` over all the entries `(a, m)` of `p`.
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 16]
```diff
@@ -319,6 +319,61 @@ theorem tprodCoeff_eq_smul_tprod (z : R) (f : Π i, s i) : tprodCoeff R z f = z
...
+    AddCon.toQuotient (c := addConGen (PiTensorProduct.Eqv R s)) p =
+    List.sum (List.map (fun x ↦ x.1 • ⨂ₜ[R] i, x.2 i) p) := by
+  match p with
+  | [] => rw [List.map_nil, List.sum_nil]; rfl
+  | x :: ps => rw [List.map_cons, List.sum_cons, ← List.singleton_append, ← toPiTensorProduct ps,
+                 ← tprodCoeff_eq_smul_tprod]; rfl
+
+/-- The set of lifts of an element `x` of `⨂[R] i, s i` in `FreeAddMonoid (R × Π i, s i)`.-/
+def lifts (x : ⨂[R] i, s i) := {p : FreeAddMonoid (R × Π i, s i) |
+    AddCon.toQuotient (c := addConGen (PiTensorProduct.Eqv R s)) p = x}
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:335]:
```suggestion
def lifts (x : ⨂[R] i, s i) : Set (FreeAddMonoid (R × Π i, s i)) := 
  {p | AddCon.toQuotient (c := addConGen (PiTensorProduct.Eqv R s)) p = x}
```
It's better to specify explicitly the type of a definition in general.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 17]
```diff
@@ -319,6 +319,61 @@ theorem tprodCoeff_eq_smul_tprod (z : R) (f : Π i, s i) : tprodCoeff R z f = z
...
+
+/-- An element `p` of `FreeAddMonoid (R × Π i, s i)` lifts an element `x` of `⨂[R] i, s i`
+if and only if `x` is equal to to the sum of `a • ⨂ₜ[R] i, m i` over all the entries
+`(a,m)` of `p`.
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:339]:
```suggestion
`(a, m)` of `p`.
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 18]
```diff
@@ -319,6 +319,61 @@ theorem tprodCoeff_eq_smul_tprod (z : R) (f : Π i, s i) : tprodCoeff R z f = z
...
+-/
+lemma mem_lifts_iff (x : ⨂[R] i, s i) (p : FreeAddMonoid (R × Π i, s i)) :
+    p ∈ lifts x ↔ List.sum (List.map (fun x ↦ x.1 • ⨂ₜ[R] i, x.2 i) p) = x := by
+  simp only [lifts, Set.mem_setOf_eq, FreeAddMonoid.toPiTensorProduct]
+
+/-- Every element of `⨂[R] i, s i` has a lift in `FreeAddMonoid (R × Π i, s i)`.
+-/
+lemma liftsNonempty (x : ⨂[R] i, s i) : Nonempty (lifts x) := by
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:347]:
```suggestion
lemma nonempty_lifts (x : ⨂[R] i, s i) : Set.Nonempty (lifts x) := by
```
It's talking about two different objects, so these should be separated by underscores in the lemma name.

Also, you were using the `Nonempty` idiom for types, but since `lifts x` is a set it seems more natural to use the one for sets.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 19]
```diff
@@ -319,6 +319,61 @@ theorem tprodCoeff_eq_smul_tprod (z : R) (f : Π i, s i) : tprodCoeff R z f = z
...
+
+/-- The empty list lifts the element `0` of `⨂[R] i, s i`.
+-/
+lemma lifts_zero : 0 ∈ lifts (0 : ⨂[R] i, s i) := by
+  rw [mem_lifts_iff]; erw [List.map_nil]; rw [List.sum_nil]
+
+/-- If elements `p,q` of `FreeAddMonoid (R × Π i, s i)` lift elements `x,y` of `⨂[R] i, s i`
+respectively, then `p + q` lifts `x + y`.
+-/
+lemma lifts_add {x y : ⨂[R] i, s i} (p : lifts x) (q : lifts y) : p.1 + q.1 ∈ lifts (x + y) := by
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:361]: Do you really want `p` to be an element of the subtype `lifts x`, instead of an element of the free monoid belonging to the set `lifts x`?

Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:361]: Not really. I changed it.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean (hunk 14 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean:134]: What about `norm_apply_le_projectiveSeminorm` ? I can also make it `norm_continuousMultilinearMap_apply_le_projectiveSeminorm`, if it's not too long.

Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean:134]: Actually I'd rather make it `norm_eval_le_projectiveSeminorm` (and similarly `norm_eval_le_injectiveSeminorm` in `InjectiveSeminorm.lean`), since what I'm really bounding here is the norm of the evaluation map at `x`.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 20]
```diff
@@ -0,0 +1,460 @@
...
+    rw [← ContinuousLinearMap.coe_inj]
+    apply PiTensorProduct.ext; ext m
+    simp only [lift_symm, LinearMap.mkContinuous_coe, LinearMap.compMultilinearMap_apply,
+      lift.tprod, ContinuousMultilinearMap.coe_coe, MultilinearMap.coe_mkContinuous,
+      ContinuousLinearMap.coe_coe]
+
+/-- The equivalence `PiTensorProduct.liftEquiv` as an isometric linear equivalence.
+-/
+noncomputable def liftIsometry  : ContinuousMultilinearMap 𝕜 E F ≃ₗᵢ[𝕜] (⨂[𝕜] i, E i) →L[𝕜] F :=
+  {liftEquiv 𝕜 E F with
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:266]:
```suggestion
  { liftEquiv 𝕜 E F with
```
(Also, all following lines will miss one space of indentation). The rule is: if you define a set, no space after {. Otherwise, put a space. Same thing for the closing accolade (comment on dit en anglais? curly brace?), by the way, is needs a space before it.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 21]
```diff
@@ -0,0 +1,460 @@
...
+theorem liftIsometry_comp_mapL (h : ContinuousMultilinearMap 𝕜 E' F) :
+    liftIsometry 𝕜 E' F h ∘L mapL f = liftIsometry 𝕜 E F (h.compContinuousLinearMap f) := by
+  apply ContinuousLinearMap.coe_injective
+  ext
+  simp only [ContinuousLinearMap.coe_comp, mapL_coe, LinearMap.compMultilinearMap_apply,
+    LinearMap.coe_comp, ContinuousLinearMap.coe_coe, Function.comp_apply, map_tprod,
+    liftIsometry_apply_apply, lift.tprod, ContinuousMultilinearMap.coe_coe,
+    ContinuousMultilinearMap.compContinuousLinearMap_apply]
+
+attribute [local ext high] ext
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:372]: Is this line really useful?

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 22]
```diff
@@ -0,0 +1,460 @@
...
+/-- The tensor of a family of linear maps from `Eᵢ` to `E'ᵢ`, as a continuous multilinear map of
+the family.
+-/
+@[simps!]
+noncomputable def mapLMultilinear : ContinuousMultilinearMap 𝕜 (fun (i : ι) ↦ E i →L[𝕜] E' i)
+    ((⨂[𝕜] i, E i) →L[𝕜] ⨂[𝕜] i, E' i) :=
+  MultilinearMap.mkContinuous
+  { toFun := mapL
+    map_smul':= fun _ _ _ _ ↦ PiTensorProduct.mapL_smul _ _ _ _
+    map_add' := fun _ _ _ _ ↦ PiTensorProduct.mapL_add _ _ _ _}
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:449]:
```suggestion
    map_add' := fun _ _ _ _ ↦ PiTensorProduct.mapL_add _ _ _ _ }
```

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 23]
```diff
@@ -0,0 +1,460 @@
...
+  1 (fun f ↦ by rw [one_mul]; exact mapL_opNorm f)
+
+variable {𝕜 E E'}
+
+theorem mapLMultilinear_opNorm : ‖mapLMultilinear 𝕜 E E'‖ ≤ 1 := by
+  simp only [mapLMultilinear]
+  apply MultilinearMap.mkContinuous_norm_le _ zero_le_one
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:456]:
```suggestion
theorem mapLMultilinear_opNorm : ‖mapLMultilinear 𝕜 E E'‖ ≤ 1 :=
  MultilinearMap.mkContinuous_norm_le _ zero_le_one _
```

**Review by sgouezel — COMMENTED** [review]
This is great, thanks a lot!
bors d+

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean [hunk 24]
```diff
@@ -0,0 +1,155 @@
...
+
+theorem projectiveSemiNormAuxBddBelow (x : ⨂[𝕜] i, E i) :
+    BddBelow (Set.range (fun (p : lifts x) ↦ projectiveSeminormAux p.1)) := by
+  existsi 0
+  rw [mem_lowerBounds]
+  simp only [Set.mem_range, Subtype.exists, exists_prop, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
+  exact fun p _ ↦ projectiveSeminormAux_nonneg p
+
+/-- The projective seminorm on `⨂[𝕜] i, Eᵢ`.
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/ProjectiveSeminorm.lean:94]: Done.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 25]
```diff
@@ -0,0 +1,460 @@
...
+
+namespace PiTensorProduct
+
+section seminorm
+
+/-- The linear map from `⨂[𝕜] i, Eᵢ` to `ContinuousMultilinearMap 𝕜 E F →L[𝕜] F` sending
+`x` in `⨂[𝕜] i, Eᵢ` to the map `f ↦ f.lift x`.
+-/
+@[simps!]
+noncomputable def toDualContinuousMultilinearMap : (⨂[𝕜] i, E i) →ₗ[𝕜]
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:95]: Ok.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 26]
```diff
@@ -0,0 +1,460 @@
...
+  simp only [toDualContinuousMultilinearMap, LinearMap.coe_mk, AddHom.coe_mk]
+  apply LinearMap.mkContinuous_norm_le _ (apply_nonneg _ _)
+
+/-- The injective seminorm on `⨂[𝕜] i, Eᵢ`. Morally, it sends `x` in `⨂[𝕜] i, Eᵢ` to the
+`sup` of the operator norms of the `PiTensorProduct.toDualContinuousMultilinearMap x`, for all
+normed vector spaces `F`. In fact, we only take in the same universe as `⨂[𝕜] i, Eᵢ`, and then
+prove in `PiTensorProduct.norm_eval_le_injectiveSeminorm` that this gives the same result.
+-/
+noncomputable irreducible_def injectiveSeminorm : Seminorm 𝕜 (⨂[𝕜] i, E i) :=
+  sSup {p | ∃ (G : Type (max (max uι u𝕜) uE)) (_ : SeminormedAddCommGroup G)
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:129]: Got them all.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 27]
```diff
@@ -0,0 +1,460 @@
...
+  left_inv f := by ext x; simp only [LinearMap.mkContinuous_coe, LinearEquiv.symm_apply_apply,
+      MultilinearMap.coe_mkContinuous, ContinuousMultilinearMap.coe_coe]
+  right_inv l := by
+    rw [← ContinuousLinearMap.coe_inj]
+    apply PiTensorProduct.ext; ext m
+    simp only [lift_symm, LinearMap.mkContinuous_coe, LinearMap.compMultilinearMap_apply,
+      lift.tprod, ContinuousMultilinearMap.coe_coe, MultilinearMap.coe_mkContinuous,
+      ContinuousLinearMap.coe_coe]
+
+/-- The equivalence `PiTensorProduct.liftEquiv` as an isometric linear equivalence.
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:264]: Done.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 20 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:270]: Ok. I also found a set that had a `{` with a space, so I deleted that.

As for the name of the sign, wikipedia says: `{` and `}` are "braces" in both American and British English, and also "curly brackets" in the latter.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 22 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean]: Already got that one.

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean (hunk 21 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean]: CI is happy, so I guess the line was not useful.

**Comment by smorel394** [comment]
Thanks for reviewing !
bors r+
